US05674886
EXAMPLE 68 1-[N-(3-bromobenzyl)-N-(4-cyanophenyl)amino]-1H-1,2,4-triazole
Starting Compounds: 1-[N-(4-cyanophenyl)amino]-1H-1,2,4-triazole and 3-bromobenzyl bromide

reactant | 1-[N-(4-cyanophenyl)amino]-1H-1,2,4-triazole | C(#N)C1=CC=C(C=C1)NN1N=CN=C1 | C9H7N5
reactant | 3-bromobenzyl bromide | BrC=1C=C(CBr)C=CC1 | C7H6Br2
product | 1-[N-(3-bromobenzyl)-N-(4-cyanophenyl)amino]-1H-1,2,4-triazole | BrC=1C=C(CN(C2=CC=C(C=C2)C#N)N2N=CN=C2)C=CC1 | C16H12BrN5
